US07897792B2
2-Fluoro-1-methyl-3-nitrobenzene
Cesium fluoride (97.5 g, 642 mmol) was added under nitrogen atmosphere to a solution of 2-chloro-1-methyl-3-nitrobenzene (73.4 g, 428 mmol) in DMSO (185 ml), and the mixture was stirred at 140° C. for 10 hours. The reaction mixture was then poured into 0.5N hydrochloric acid and extracted twice with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate. A crude product was obtained by vacuum concentration, and then purified by reduced-pressure distillation (boiling point: 118° C. to 122° C./15 mm Hg) to yield the title compound (54.4 g, 82%) as a yellow oil.

reactant | Cesium fluoride | 642 mmol, 97.5 g | [F-].[Cs+]
reactant | 2-chloro-1-methyl-3-nitrobenzene | 428 mmol, 73.4 g | ClC1=C(C=CC=C1[N+](=O)[O-])C | C7H6ClNO2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | DMSO | 185 ml | CS(=O)C | C2H6OS
product | 2-Fluoro-1-methyl-3-nitrobenzene | 54.4 g, 82% | FC1=C(C=CC=C1[N+](=O)[O-])C | C7H6FNO2
